US07875636B2
A mixture of 2-[4-(1-hydroxy-1-methylethyl)phenyl]-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide (400 mg, 1.01 mmol) and p-toluenesulfonic acid monohydrate (38.4 mg, 0.202 mmol) in toluene (4.5 mL) was heated at 100° C. in a sealed tube for 6 h. The mixture was cooled to room temperature, diluted with CH2Cl2 (40 mL) and washed with water (2×50 mL). The organic layer was dried over MgSO4, concentrated and purified by normal phase chromatography (20-100% EtOAc/Hexanes) to give 316 mg (83%) of 2-(4-isopropenylphenyl)-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide as a white solid. 1H NMR (CDCl3, 400 MHz) δ 8.21 (d, J=2.35 Hz, 1H), 7.45 (m, 2H), 7.20 (m, 4H), 6.64 (d, J=7.32 Hz, 1H), 5.38 (s, 1H), 5.11 (m, 1H), 5.09 (s, 1H), 4.37 (q, J=7.94 Hz, 2H), 3.58 (s, 2H), 2.15 (s, 3H), 1-39 (d, J=6.77 Hz, 3H); MS (Electrospray): m/z 379.5 (M+H).

reactant | 2-[4-(1-hydroxy-1-methylethyl)phenyl]-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide | 1.01 mmol, 400 mg | OC(C)(C)C1=CC=C(C=C1)CC(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C20H23F3N2O3
reactant | p-toluenesulfonic acid monohydrate | 0.202 mmol, 38.4 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 4.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-isopropenylphenyl)-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide | 316 mg, 83% | C(=C)(C)C1=CC=C(C=C1)CC(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C20H21F3N2O2
